US04461895
27.7 g. (84 mmol) (-)-7-Hydroxy-6-methoxy-1-(3,4-dimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline in 430 ml. ethanol are mixed with 9.18 g. (75.9 mmol) allyl bromide and 17.6 g. (209 mmol) sodium bicarbonate. The reaction mixture is heated for 3 hours at 80° C., while stirring. After cooling and evaporating in a vacuum, the residue is partitioned between water and methylene chloride. The usual working up and chromatographic purification (silica gel; chloroform) gives 22.0 g. of a pale yellow foam. By crystallisation from isopropanol-diethyl ether, there is obtained (+)-2-allyl-7-hydroxy-6-methoxy-1-(3,4-dimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline in the form of colourless crystals; m.p. 108°-112° C.

reactant | (-)-7-Hydroxy-6-methoxy-1-(3,4-dimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline | 84 mmol | OC1=C(C=C2CCNC(C2=C1)CC1=CC(=C(C=C1)OC)OC)OC | C19H23NO4
reactant | allyl bromide | 75.9 mmol | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | 209 mmol | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (+)-2-allyl-7-hydroxy-6-methoxy-1-(3,4-dimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline | C(C=C)N1C(C2=CC(=C(C=C2CC1)OC)O)CC1=CC(=C(C=C1)OC)OC | C22H27NO4
